US07759373B2
A mixture of 2-formylamino-1-(3-pyridyl)-1-butanone (640 mg) and ammonium acetate (5.13 g) in acetic acid (5 ml) was stirred at 100° C. for 1.5 hours. After cooling, 28% aqueous ammonia was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and the solvent was removed under reduced pressure. The resulting residue was triturated with ethyl acetate-diethyl ether to obtain 5-ethyl-4-(3-pyridyl)imidazole (520 mg) as colorless powder.

reactant | 2-formylamino-1-(3-pyridyl)-1-butanone | 640 mg | C(=O)NC(C(=O)C=1C=NC=CC1)CC | C10H12N2O2
reactant | ammonium acetate | 5.13 g | C(C)(=O)[O-].[NH4+]
reactant | ammonia | N | H3N
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 5-ethyl-4-(3-pyridyl)imidazole | 520 mg | C(C)C1=C(N=CN1)C=1C=NC=CC1 | C10H11N3
